US05021081
6 g (0.03 mole) of ethyl 5-dimethylamino-4-methyl-4H-1,2,4-triazol-3-yl-carboxylate and 4.28 g (0.04 mole) of benzylamine are heated in 80 ml of tetrahydrofuran at 200° C. at 20 bar. For working up, the mixture is evaporated in vacuo, and the residue is purified on silica gel by means of chromatography (eluent: toluene/ethanol 1:1). 2.68 g (35% of theory) of N-benzyl-5-dimethylamino-4-methyl-4H-1,2,4-triazol-3-yl-carboxamide of melting point 96° C.-98° C. are obtained.

reactant | ethyl 5-dimethylamino-4-methyl-4H-1,2,4-triazol-3-yl-carboxylate | 0.03 mole, 6 g | CN(C=1N(C(=NN1)C(=O)OCC)C)C | C8H14N4O2
reactant | benzylamine | 0.04 mole, 4.28 g | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | N-benzyl-5-dimethylamino-4-methyl-4H-1,2,4-triazol-3-yl-carboxamide | 2.68 g, 35% | C(C1=CC=CC=C1)NC(=O)C1=NN=C(N1C)N(C)C | C13H17N5O
